US09351973B2
Step C. 5-oxo-2-(pyridine-3-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile
To a solution of ethyl 3-(5-amino-4-cyano-3-(pyridine-3-yl)-1H-pyrazol-1-yl)propanoate (213 mg, 0.75 mmol) in THF (5 mL) was added n-BuLi (0.6 mL, 1.49 mmol) at −60° C. The resulting mixture was stirred at −60° C. for 3 hours. 2 mL of water was added to quench the reaction and the THF was removed in vacuo. The residue was purified by HPLC to afford the desired product: MS (m/z): 240.1 [M+H]+, 1H NMR (DMSO, 400 MHz): δ11.79 (s, 1 H), 8.99 (s, 1 H), 8.65 (d, 1 H, J=5.2 Hz), 8.17 (d, 1 H, J=8.4 Hz), 7.57 (dd, 1 H, J=8.4 Hz, J=5.2 Hz), 4.38 (t, 2 H, J=7.6 Hz), 2.89 (t, 2 H, J=7.6 Hz).

reactant | ethyl 3-(5-amino-4-cyano-3-(pyridine-3-yl)-1H-pyrazol-1-yl)propanoate | 0.75 mmol, 213 mg | NC1=C(C(=NN1CCC(=O)OCC)C=1C=NC=CC1)C#N | C14H15N5O2
reactant | n-BuLi | 1.49 mmol, 0.6 mL | [Li]CCCC
reactant | water | 2 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-oxo-2-(pyridine-3-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | O=C1NC=2N(CC1)N=C(C2C#N)C=2C=NC=CC2 | C12H9N5O
